US04857656
Synthesis of Benzyloxycarbonylphenylalanylproline
In 30 ml of water was dissolved 5.47 g of benzyloxycarbonylphenylalanine p-dimethylsulfoniophenyl ester methylsulfate obtained by a synthesizing method according to Synthetic Example 5, and 20 ml of an aqueous solution of 1.15 g of proline and 1.4 ml of triethylamine was dropwise added thereto under stirring. The reaction mixture was further stirred for 12 hours at room temperature, adjusted to pH 2 by adding 2% HCl, and extracted twice with 50 ml of ethyl acetate. The ethyl acetate layer was washed with water, dried, and concentrated under reduced pressure, and the obtained residue was recrystallized by adding ether. This crystalline product indicated only the peak of the desired product by HPLC.

reactant | benzyloxycarbonylphenylalanine p-dimethylsulfoniophenyl ester methylsulfate | 5.47 g | COS(=O)(=O)[O-].C[S+](C1=CC=C(C=C1)OC([C@@H](NC(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1)=O)C
reactant | proline | 1.15 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | triethylamine | 1.4 ml | C(C)N(CC)CC | C6H15N
reactant | HCl | Cl | ClH
solvent | water | 30 ml | O | H2O
product | Benzyloxycarbonylphenylalanylproline | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N1[C@H](C(=O)O)CCC1 | C22H24N2O5
